US07396847B2
(5R,5′R)-4,4′-Bis-(5-(1H-1,2,3-triazol-1-yl)methyl-2-oxo-oxazolidin-3-yl)-2,2′-difluoro-biphenyl
A stirred mixture of (5R)-3-(3-fluoro-4-(trimethylstannyl)phenyl)-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one (425 mg, 1.0 mmol), 2-bromo-5-cyano-thiazole (189 mg, 1.0 mmol, and copper(I) iodide in dimethylformamide (5 ml) was purged with a slow stream of nitrogen for 20 min and then tetrakis(triphenylphosphine)palladium(0) (58 mg, 0.05 mmol) was added. The stirred reaction mixture was maintained at 70° C. under an atmosphere of nitrogen for 5 hours. The stirred reaction mixture was treated with aqueous potassium fluoride (10%, 20 ml) and then stirred for 30 min, treated with ethyl acetate (20 ml). The precipitate was isolated by filtration to give fraction A of impure product. The organic phase was separated, dried (MgSO4), treated with silica-gel (500 mg), and evaporated under reduced pressure to leave a free-running solid. The solid was applied to a silica-gel column and eluted with dichloromethane-methanol (0%-10% methanol gradient) to give a further fraction B of impure product. Fractions A and B were dissolved in DMSO (6 ml total), combined, and purified by reverse phase hplc to give the desired product (18 mg).

reactant | (5R)-3-(3-fluoro-4-(trimethylstannyl)phenyl)-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one | 1.0 mmol, 425 mg | FC=1C=C(C=CC1[Sn](C)(C)C)N1C(O[C@H](C1)CN1N=NC=C1)=O
reactant | 2-bromo-5-cyano-thiazole | BrC=1SC(=CN1)C#N | C4HBrN2S
reactant | potassium fluoride | 20 ml | [F-].[K+]
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | DMSO | 6 ml | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5R,5′R)-4,4′-Bis-(5-(1H-1,2,3-triazol-1-yl)methyl-2-oxo-oxazolidin-3-yl)-2,2′-difluoro-biphenyl | 18 mg | N1(N=NC=C1)C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F)F | C24H20F2N8O4
